US06756378B2
4-[2-[1-[4-[N′-(2-fluorophenyl)ureido)-3-methoxyphenylacetyl]-2-pyrrolidinyl]ethynyl]benzoic acid
A mixture of 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetic acid (255 mg, 0.8 mmol), 2-[2-(4-ethoxycarbonylphenyl)ethynyl]pyrrolidine (195 mg, 0.8 mmol), EDC (230 mg, 1.2 mmol), DMAP (98 mg, 0.8 mmol) in DMF (20 mL) was stirred overnight. The reaction mixture was poured into 1 N HCl and the resulting precipitate was collected with suction and dissolve in CHCl3. The solution was dried over MgSO4 and evaporated. The residue was chromatographed on silica gel with CHCl3—MeOH (100:1, v/v) as eluent to give the desired compound, which was dissolved in THF (8 mL). 0.25 N NaOH (8 mL) was added to this solution and the resulting mixture was stirred overnight. The mixture was poured into 1 N HCl and extracted with CHCl3. The extract was washed with brine, dried over MgSO4, and evaporated. The residue was recrystallized from CHCl3-n-hexane to give 144 mg (37%) 33 as a pale yellow crystalline powder. mp 152-155 (d); 1H-NMR (DMSO-d6) δ1.92-2.27 (4 H, m), 2.50 (2 H, s), 3.33-3.78 (2 H, m), 3.80 and 3.82 (total 3 H, s, each), 4.88-5.12 (1 H, m), 6.77-7.24 and 7.99-8.20 (total 7 H, m,) 7.48 and 7.52 (2 H, d, J=8.3 Hz, each), 7.91 (2H, d, J=8.3 Hz), 8.72 (1H, s), 9.18 (1H, s), 13.11 (1H, br-s); MS (FAB) m/z 516 (M++1); Anal. Calcd. for C29H26N3O5F.2H2O: C, 63.15; H, 5.48; N, 7.63. Found: C, 63.58; H, 5.15; N, 7.22.

reactant | 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetic acid | 0.8 mmol, 255 mg | FC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15FN2O4
reactant | 2-[2-(4-ethoxycarbonylphenyl)ethynyl]pyrrolidine | 0.8 mmol, 195 mg | C(C)OC(=O)C1=CC=C(C=C1)C#CC1NCCC1 | C15H17NO2
reactant | EDC | 1.2 mmol, 230 mg
reactant | HCl | 1 N | Cl | ClH
catalyst | DMAP | 0.8 mmol, 98 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[2-[1-[4-[N′-(2-fluorophenyl)ureido)-3-methoxyphenylacetyl]-2-pyrrolidinyl]ethynyl]benzoic acid | FC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1C(CCC1)C#CC1=CC=C(C(=O)O)C=C1)OC)=O | C29H26FN3O5
